### PR TITLE
[Merged by Bors] - feat(NumberTheory/DirichletCharacter): vanishing of Gauss sums when add char is imprimitive

### PR DESCRIPTION
**Pull request by loefflerd**
The aim of this PR is to show that `gaussSum χ e`, for `χ` a Dirichlet character mod `N` and `e` an additive character mod `N`, is zero if `χ` is primitive but `e` is not. This will be used to prove the functional equation for Dirichlet L-series in a later PR.

Along the way we add various general-purpose lemmas about divisibility in `ZMod N` and other finite rings, and about conductors and primitivity of Dirichlet and additive characters.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 1]
```diff
@@ -187,6 +187,9 @@ theorem isUnit_of_mem_nonZeroDivisors {G₀ : Type*} [GroupWithZero G₀] {x : G
     inv_mul_cancel (nonZeroDivisors.ne_zero hx)⟩, rfl⟩
 #align is_unit_of_mem_non_zero_divisors isUnit_of_mem_nonZeroDivisors
 
+lemma mem_nonZeroDivisors_of_isUnit {a : M} (ha : IsUnit a) : a ∈ M⁰ :=
```
Comment (erdOne) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:190]: Maybe `IsUnit.mem_nonZeroDivisors` instead to enable dot notation?

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 2]
```diff
@@ -41,39 +40,53 @@ Main definitions:
...
 lemma toUnitHom_eq_char' {a : ZMod n} (ha : IsUnit a) : χ a = χ.toUnitHom ha.unit := by simp
 
 lemma toUnitHom_eq_iff (ψ : DirichletCharacter R n) : toUnitHom χ = toUnitHom ψ ↔ χ = ψ := by simp
 
 lemma eval_modulus_sub (x : ZMod n) : χ (n - x) = χ (-x) := by simp
 
-lemma periodic {m : ℕ} (hm : n ∣ m) : Function.Periodic χ m := by
-  intro a
-  rw [← ZMod.natCast_zmod_eq_zero_iff_dvd] at hm
-  simp only [hm, add_zero]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:60]: _Note to reviewers of this PR_: I removed this lemma, and the import needed to state it, because it doesn't actually do anything. The Dirichlet character `χ` coerces to a function `ZMod n → R` so `m` is getting coerced into `ZMod n`; and the hypotheses imply that `m` coerces to zero in `ZMod n`. So this is actually showing that `χ` is periodic with period 0, which is not a useful statement. 

(Maybe `Function.Periodic (χ ∘ Int.cast) m` is what was intended, but it is probably better to show that via periodicity of `Int.cast`.)

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 3]
```diff
@@ -96,23 +109,52 @@ lemma changeLevel_eq_cast_of_dvd {m : ℕ} (hm : n ∣ m) (a : Units (ZMod m)) :
...
+
 namespace FactorsThrough
 
+variable {χ}
+
 /-- The fact that `d` divides `n` when `χ` factors through a Dirichlet character at level `d` -/
 lemma dvd {d : ℕ} (h : FactorsThrough χ d) : d ∣ n := h.1
 
-/-- The Dirichlet character at level `d` through which `χ` factors -/
+/-- The Dirichlet character at level `d` through which `χ` factors. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:122]: Quoting from the [Documentation style](https://leanprover-community.github.io/contribute/doc.html) page:
```quote
 If a doc string is a complete sentence, then it should end in a period.
```
Which I read as "a period is not required when the doc string is not a complete sentence". (But a period is certainly allowed in such a case.)

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 4]
```diff
@@ -96,23 +109,52 @@ lemma changeLevel_eq_cast_of_dvd {m : ℕ} (hm : n ∣ m) (a : Units (ZMod m)) :
...
 
 /-- The fact that `χ` factors through `χ₀` of level `d` -/
 lemma eq_changeLevel {d : ℕ} (h : FactorsThrough χ d) : χ = changeLevel h.dvd h.χ₀ :=
   Classical.choose_spec h.2
 
+/-- The character of level `d` through which `χ` factors is uniquely determined. -/
+lemma existsUnique {d : ℕ} [NeZero n] (h : FactorsThrough χ d) :
+    ∃! χ' : DirichletCharacter R d, χ = changeLevel h.dvd χ' := by
+  rcases h with ⟨hd, χ₂, rfl⟩
+  exact ⟨χ₂, rfl, fun χ₃ hχ₃↦ (changeLevel_injective hd hχ₃).symm⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:134]:
```suggestion
  exact ⟨χ₂, rfl, fun χ₃ hχ₃ ↦ (changeLevel_injective hd hχ₃).symm⟩
```

File: Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean [hunk 5]
```diff
@@ -0,0 +1,77 @@
...
+    ext1 y
+    simpa only [Int.cast_mul, Int.cast_natCast, mulShift_apply, mul_assoc, one_apply]
+      using DFunLike.ext_iff.mp he (a * y)
+  rw [← Units.eq_iff, Units.val_one, ZMod.unitsMap_def, Units.coe_map] at hu
+  have : ZMod.castHom hd (ZMod d) u.val = ((u.val.val : ℤ) : ZMod d) := by simp
+  rwa [MonoidHom.coe_coe, this, ← Int.cast_one, eq_comm,
+    ZMod.intCast_eq_intCast_iff_dvd_sub] at hu
+
+/-- If `gaussSum χ e ≠ 0`, and `d` is such that `e.mulShift d = 1`, then `χ` must factor through
+`d`. (This will be used to show that Gauss sums vanish when `χ` is primitive and `e` is not.)-/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean:34]:
```suggestion
`d`. (This will be used to show that Gauss sums vanish when `χ` is primitive and `e` is not.) -/
```

File: Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean [hunk 6]
```diff
@@ -0,0 +1,77 @@
...
+  exact (this.trans_lt hd₂).ne
+
+/-- If `χ` is a primitive character, then the function `a ↦ gaussSum χ (e.mulShift a)`, for any
+fixed additive character `e`, is a constant multiple of `χ⁻¹`. -/
+lemma gaussSum_mulShift_of_isPrimitive [IsDomain R] {χ : DirichletCharacter R N}
+    (hχ : χ.isPrimitive) (a : ZMod N) :
+    gaussSum χ (e.mulShift a) = χ⁻¹ a * gaussSum χ e := by
+  by_cases ha : IsUnit a
+  · conv_rhs => rw [← gaussSum_mulShift χ e ha.unit]
+    have : IsUnit (χ a) := by rw [← ha.unit_spec, ← MulChar.coe_toUnitHom]; apply Units.isUnit
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean:60]: Maybe add
```lean
lemma MulChar.map_unit (χ : MulChar R R') {a : R} (ha : IsUnit a) : IsUnit (χ a)
```
(with suitable `R` and `R'`) in `Mathlib.NumberTheory.LegendreSymbol.MulCharacter`? 
It looks like a generally useful statement.

File: Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean [hunk 7]
```diff
@@ -0,0 +1,77 @@
...
+    rw [IsUnit.unit_spec, MulChar.inv_apply_eq_inv, Ring.inverse_mul_cancel_left _ _ this]
+  · rw [MulChar.map_nonunit _ ha, zero_mul]
+    apply gaussSum_eq_zero_of_isPrimitive_of_not_isPrimitive _ hχ
+    -- this is just showing `e.mulShift a` is not primitive if `a` is non-unit -- separate?
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean:64]: I think it makes sense to have a separate lemma for this.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean:64]: How does it relate to `not_isPrimitive_mulShift` below?

File: Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean (hunk 6 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean:60]: In the course of attempting to add it, I realised someone had already done so – it's `IsUnit.map`.

File: Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean (hunk 7 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/DirichletCharacter/GaussSum.lean:64]: Good point – I separated that out as a separate lemma and then forgot to update the original proof using it.

**Comment by loefflerd** [comment]
Thanks Michael for the review! I have updated the PR accordingly. 

In the process, I realised that I had (coincidentally) added 2 of the 3 lemmas suggested in a "TODO" note at the top of `DirichletCharacter/Basic.lean`. So I have completed the job by adding the third TODO lemma (`changeLevel_eq_one_iff`) to this PR, and removed the note.

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 8]
```diff
@@ -242,6 +245,15 @@ theorem nonZeroDivisors_le_comap_nonZeroDivisors_of_injective [NoZeroDivisors M'
   Submonoid.le_comap_of_map_le _ (map_le_nonZeroDivisors_of_injective _ hf le_rfl)
 #align non_zero_divisors_le_comap_non_zero_divisors_of_injective nonZeroDivisors_le_comap_nonZeroDivisors_of_injective
 
+/-- In a finite ring, an element is a unit iff it is a non-zero-divisor. -/
+lemma isUnit_iff_mem_nonZeroDivisors_of_finite [Finite R] {a : R} :
+    IsUnit a ↔ a ∈ nonZeroDivisors R := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:250]: It is good to have that! I'm surprised it wasn't there already...

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM!

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
